US06812225B2
4-Thiomorpholin-4-yl-phenylamine
4-(4-Nitro-phenyl)-thiomorpholine (3.0 g, 13.4 mmol), as prepared in Reference Example 13a above, was dissolved in ethanol (250 mL) and 10% palladium on carbon (250 mg) was added. This mixture was shaken on a Parr hydrogenator for 3 h. The reaction mixture was then filtered through diatomaceous earth and concentrated under vacuum. The residue was triturated with hexane to yield an gray solid (2.1 g).

reactant | 4-(4-Nitro-phenyl)-thiomorpholine | 13.4 mmol, 3.0 g | [N+](=O)([O-])C1=CC=C(C=C1)N1CCSCC1 | C10H12N2O2S
solvent | ethanol | 250 mL | C(C)O | C2H6O
catalyst | palladium on carbon | 250 mg | [Pd] | Pd
product | 4-Thiomorpholin-4-yl-phenylamine | 2.1 g | N1(CCSCC1)C1=CC=C(C=C1)N | C10H14N2S
